US03943124
3α-Hydroxy-17β-isopropoxycarbonyl-5α-androstan-11-one
A solution of 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid (550 mg.) in dry isopropanol containing 3.7%, by weight, of hydrogen chloride (100 ml.) was refluxed for 61/2 hours.

reactant | 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid | 550 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)O | C20H30O4
reactant | hydrogen chloride | 100 ml | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
product | 3α-Hydroxy-17β-isopropoxycarbonyl-5α-androstan-11-one | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)OC(C)C | C23H36O4
